US05864039
60% Sodium hydride (1.16 g) was suspended in dimethylformamide (40 ml), and phenol (3 g) was added under ice-cooilng with stirring. The mixture was stirred at room temperature for 1 hr. The mixture was again ice-cooled, and a solution of 1,6-dibromohexane (7.78 g) in dimethylformamide (10 ml) was dropwise added, which was followed by stirring at room temperature for 2 hr. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried and the solvent was evaporated under reduced pressure to give 8.2 g of 6-phenoxyhexyl bromide.

reactant | Sodium hydride | 1.16 g | [H-].[Na+]
reactant | phenol | 3 g | C1(=CC=CC=C1)O | C6H6O
reactant | 1,6-dibromohexane | 7.78 g | BrCCCCCCBr | C6H12Br2
reactant | Water | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-phenoxyhexyl bromide | 8.2 g | O(C1=CC=CC=C1)CCCCCCBr | C12H17BrO
